US06346621B1
5-Chloro-1-(dimethylamino)-4H-quinoline was prepared in the same manner as in Example 1 except that 3-(2,6-dichlorophenyl)propionaldehyde N,N-dimethylhydrazone was used in place of 2-chlorophenylacetaldehyde N,N-dimethylhydrazone, cesium carbonate was used in place of t-butoxysodium, and the reaction was conducted at 120° C. for 8 hours. (Yield: 35%).

reactant | 3-(2,6-dichlorophenyl)propionaldehyde N,N-dimethylhydrazone | CN(N=CCCC1=C(C=CC=C1Cl)Cl)C | C11H14Cl2N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | 5-Chloro-1-(dimethylamino)-4H-quinoline | Yield: 35% | ClC1=C2CC=CN(C2=CC=C1)N(C)C | C11H13ClN2
